US09238640B2
To a solution of ethyl 4-(4-(methylsulfonyloxy)piperidin-1-yl)benzoate (10.5 g, 32.1 mmol) in DMF (50 mL) was added sodium azide (4.17 g, 64.2 mmol). The mixture was heated at 80° C. for 5 hours, cooled to room temperature, diluted with brine (300 mL), and extracted with ethyl acetate (400 mL). The organic phase was washed with brine (2×300 mL), dried over anhydrous MgSO4, filtered, and concentrated, to afford ethyl 4-(4-azidopiperidin-1-yl)benzoate as a yellow solid (7.62 g, 87%).

reactant | ethyl 4-(4-(methylsulfonyloxy)piperidin-1-yl)benzoate | 32.1 mmol, 10.5 g | CS(=O)(=O)OC1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C15H21NO5S
reactant | sodium azide | 64.2 mmol, 4.17 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | brine | 300 mL | [Cl-].[Na+].O
product | ethyl 4-(4-azidopiperidin-1-yl)benzoate | 7.62 g, 87% | N(=[N+]=[N-])C1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C14H18N4O2
